US04432972
Hexylphosphinic acid, phenylmethyl ester is reacted with L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride salt according to the procedure of Example 1(c) to yield N-[N-[hexyl(phenylmethoxy)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester.

reactant | Hexylphosphinic acid, phenylmethyl ester | C(CCCCC)P(OCC1=CC=CC=C1)=O | C13H21O2P
reactant | L-phenylalanyl-L-leucine, phenylmethyl ester, hydrochloride salt | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1
product | N-[N-[hexyl(phenylmethoxy)phosphinyl]-L-phenylalanyl]-L-leucine, phenylmethyl ester | C(CCCCC)P(=O)(N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C35H47N2O5P
